US04099000
A solution of methanesulfonyl chloride (0.145 ml, 1.87 mMol) in anhydrous CH2Cl2 (2 ml.) is added dropwise over 10 min. to an ice-cold, stirring solution of p-nitrobenzyl 7α-azido-3-hydroxy-3-acetoxymethyl-cepham-4-carboxylate (0.65 g., 1.44 mMol) and Et3N (0.30 ml, 2.16 mMol) in anhydrous CH2Cl2 (10 ml.). After stirring 15 more min. in the cold, the solution is diluted with ice-cold CH2Cl2 (10 ml.), washed with ice-cold H2O (10 ml.), ice-cold 5% HCl (10 ml.), and ice-cold 5% NaHCO3 (10 ml.), dried with MgSO4, and filtered. Evaporation of the solvent in vacuo leaves p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-acetoxymethyl-cepham-4-carboxylate.

reactant | methanesulfonyl chloride | 1.87 mMol, 0.145 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | p-nitrobenzyl 7α-azido-3-hydroxy-3-acetoxymethyl-cepham-4-carboxylate | 1.44 mMol, 0.65 g | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(COC(C)=O)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H17N5O8S
reactant | Et3N | 2.16 mMol, 0.30 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 7α-azido-3-methanesulfonyloxy-3-acetoxymethyl-cepham-4-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(COC(C)=O)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C18H19N5O10S2
